US06197990B1
Sodium hydride (containing mineral oil; the content of sodium hydride: 60%) (0.41 g) and aniline (0.033 g) were added to the solution of tetramethylcyclopentadiene (0.63 g) in tetrahydrofuran (15 ml), and stirred at 40° C. for 4 hours. Thus, tetramethylcyclopentadienylsodium was obtained in the form of a solution in tetrahydrofuran.

reactant | Sodium hydride | [H-].[Na+]
reactant | aniline | 0.033 g | NC1=CC=CC=C1 | C6H7N
reactant | tetramethylcyclopentadiene | 0.63 g | CC1=C(C(=C(C1)C)C)C | C9H14
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | tetramethylcyclopentadienylsodium | CC1=C(C(=C(C1[Na])C)C)C | InChI=1S/C9H13.Na/c1-6-5-7(2)9(4)8(6)3;/h5H,1-4H3;
